.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100

* input coupling capacitor
Ci in2 base 750.07u

* bias circuit
R1 vcc base 39.9k
R2 base 0 2.9353k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 4.9996k
Re emit 0 100.007

* bypass capacitor
Cb emit 0 750.7u


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 599.52

* output coupling capacitor
Co emit2 out 649.97u

* load
RL out 0 8

.op
.end

.control

print all

op

*Verificacao correto funcionamento transistors.
echo "**************"
echo "NPN_TAB"
let V_CE=v(coll)-v(emit)
echo "VCE = $&V_CE"
let V_BE=v(base)-v(emit)
echo "VBE = $&V_BE"
if (V_CE>V_BE)
echo "VCE>VBE = Correct F.A.R"
else
echo "VCE>VBE = Wrong F.A.R"
endif

echo "NPN_END"

echo "**************"
echo "PNP_TAB"
let V_EC=v(emit2)
echo "VCE = $&V_EC"
let V_EB=v(emit2)-v(coll)
echo "VEB = $&V_EB"
if (V_EC>V_EB)
echo "VEC>VEB = Correct F.A.R"
else
echo "VEC>VEB = Wrong F.A.R"
endif
echo "PNP_END"




* time analysis
tran 1e-5 1e-2
*plot v(coll)
hardcopy vo1.ps vdb(coll)



* frequency analysis
ac dec 10 1 100MEG
*plot vdb(coll)
*plot vp(coll)
hardcopy vo1f.ps vdb(coll)


*plot vdb(out)
*plot vp(out)
hardcopy vo2f.ps vdb(out)


*input impedance in kohm
print all

*plot abs(v(in2)[40]/vin#branch[40]/(-1000))
print v(in2)[40]/vin#branch[40]/(-1000)


meas AC max MAX vdb(out) from=10 to=100MEG
let range = max - 3

meas AC lower WHEN vdb(out) = range
meas AC upper WHEN vdb(out) = range CROSS=LAST

let peak = max
let lowerCOFF= lower
let higherCOFF = upper 
let bandwidth = upper - lower
let cost = 2198
let merit = (peak*bandwidth)/(lowerCOFF*cost)

*need a different setup to measure output impedance

*input impedance in ohm
echo "Zin_TAB"
let Zr_in= Re(v(in2)[40]/i(Vin)[40])
let Zim_in= Im(v(in2)[40]/i(Vin)[40])
echo "Zin = $&Zr_in + $&Zim_in j"
echo "Zin_END"



echo "results_TAB"
echo "V-Gain = $&peak"
echo "Bandwidth = $&bandwidth"
echo "CO-lowerFreq = $&lowerCOFF"
echo "CO-higherFreq = $&higherCOFF"
echo "results_END"

echo "**************"
echo "cost_TAB"
echo "Cost = $&cost"
echo "merit = $&merit"
echo "cost_END"
echo "**************"

.endc

